US06635640B2
Pyridinium tribromide (90% (Aldrich), 5.5 g, 15.3 mmol) was added portion-wise over 10 minutes to a suspension of 4-pyridin-3-yl-1H-indole (1 g, 5.1 mmol) in 2-methyl-2-propanol (30 mL), ethanol (20 mL) and acetic acid (10 mL). The mixture was stirred at room temperature for 2 hours and then acetic acid (50 mL) was added. After stirring for an additional hour, water (0.5 mL) and zinc dust (3.3 g, 51 mmol) were added and stirring was continued for another hour. Residual zinc dust was filtered and washed with methanol. The filtrate was concentrated and the syrupy residue was stirred in water (100 mL) overnight. The solid which formed was filtered, washed with water to remove zinc and pyridine salts and dried under high vacuum to give 1.1 g (100%) of 4-pyridin-3-yl-1,3-dihydro-indol-2-one.

reactant | Pyridinium tribromide | 15.3 mmol, 5.5 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 4-pyridin-3-yl-1H-indole | 5.1 mmol, 1 g | N1=CC(=CC=C1)C1=C2C=CNC2=CC=C1 | C13H10N2
reactant | water | 0.5 mL | O | H2O
solvent | 2-methyl-2-propanol | 30 mL | CC(C)(C)O | C4H10O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 51 mmol, 3.3 g | [Zn] | Zn
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-pyridin-3-yl-1,3-dihydro-indol-2-one | 1.1 g, 100% | N1=CC(=CC=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
